US08058285B2
Synthesis of 2-ethylthio-9-methyl-7-phenyl-4-piperazin-1-yl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine
0.63 g (1.7 mmol) 4-chloro-2-ethylthio-9-methyl-7-phenyl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine is stirred with 0.29 g (3.4 mmol) piperazine in 10 ml tetrahydrofuran at room temperature for 1 h. The precipitate is sucked off, washed with some water and suck dried. Thereafter, the precipitate is suspended in about 300 ml dichloromethane, fully stirred, filtrated and the solvent of the filtrate is removed. 0.67 g (93%) of the title substance is obtained. ESI-MS [m/z]: 422, melting point: 150-154° C.

reactant | 4-chloro-2-ethylthio-9-methyl-7-phenyl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine | 1.7 mmol, 0.63 g | ClC=1C2=C(N=C(N1)SCC)C1=C(S2)N=C(C=C1C)C1=CC=CC=C1 | C18H14ClN3S2
reactant | piperazine | 3.4 mmol, 0.29 g | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-ethylthio-9-methyl-7-phenyl-4-piperazin-1-yl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine | C(C)SC=1N=C(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC=CC=C1)N1CCNCC1 | C22H23N5S2
